US04791111
A mixture of 9.7 parts of 1-[2-(1-methylethoxy)ethyl]-3-[4-[4-[4-(phenylmethoxy)phenyl]-1-piperazinyl]phenyl]-2-imidazolidinone and 250 parts of acetic acid was hydrogenated at normal pressure and at 50° C. with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was dissolved in a mixture of methanol and water and the whole was neutralised with a sodium hydrogen carbonate solution. The precipitated product was filtered off and crystallized from 4-methyl-2-pentanone. The product was filtered off and dried at 100° C., yielding 6.3 parts (76.8%) of 1-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-3-[2-(1-methylethoxy)ethyl]-2-imidazolidinone hemihydrate; mp. 178.3° C. (intermediate 28).

reactant | 1-[2-(1-methylethoxy)ethyl]-3-[4-[4-[4-(phenylmethoxy)phenyl]-1-piperazinyl]phenyl]-2-imidazolidinone | CC(C)OCCN1C(N(CC1)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C31H38N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-3-[2-(1-methylethoxy)ethyl]-2-imidazolidinone hemihydrate | 76.8% | O.OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(CC1)CCOC(C)C)=O.OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(CC1)CCOC(C)C)=O | InChI=1S/2C24H32N4O3.H2O/c2*1-19(2)31-18-17-27-15-16-28(24(27)30)22-5-3-20(4-6-22)25-11-13-26(14-12-25)21-7-9-23(29)10-8-21;/h2*3-10,19,29H,11-18H2,1-2H3;1H2
